US09056858B2
Methanesulfonic acid 2-bromo-pyridin-4-ylmethyl ester (4.24 g, 15.9 mmol) is added to a stirred solution of potassium cyanide (1.02 g, 15.1 mmol) in a mixture of ethanol (30 mL) and water (6 mL) at room temperature. After 72 hours, ethyl acetate (80 mL) and saturated aqueous sodium bicarbonate (40 mL) are added and phases are separated. The organic layer is washed with water (3×40 mL), dried over MgSO4, filtered and concentrated. The resulting residue is purified by silica gel chromatography eluting with a gradient of 0-60% ethyl acetate in heptane to afford (2-bromo-pyridin-4-yl)-acetonitrile (ES+ m/z 197.41; 199.40).

reactant | Methanesulfonic acid 2-bromo-pyridin-4-ylmethyl ester | 15.9 mmol, 4.24 g | BrC1=NC=CC(=C1)COS(=O)(=O)C | C7H8BrNO3S
reactant | potassium cyanide | 15.1 mmol, 1.02 g | [C-]#N.[K+]
reactant | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | 6 mL | O | H2O
product | (2-bromo-pyridin-4-yl)-acetonitrile | BrC1=NC=CC(=C1)CC#N | C7H5BrN2
